US08541588B2
3-Chloro-4-fluoro-N-pyrimidin-4-ylbenzenesulfonamide
4-Aminopyrimidine (1.0 g, 10.5 mmol) and DABCO™ (1.18 g, 10.5 mmol) were added concurrently to a solution of 3-chloro-4-fluorobenzenesulfonyl chloride (1.25 mL, 10.0 mmol) in anhydrous acetonitrile (49 mL). The reaction mixture immediately turned yellow and a precipitate was formed. After stirring for 16 hours, the mixture was concentrated in vacuo. The crude material was suspended in ethyl acetate (75 mL) and water (75 mL) and stirred for 15 minutes. The resulting solid was filtered and dried in vacuo to afford the title compound, 0.83 g, 27% yield.

reactant | 4-Aminopyrimidine | 10.5 mmol, 1.0 g | NC1=NC=NC=C1 | C4H5N3
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
reactant | 3-chloro-4-fluorobenzenesulfonyl chloride | 10.0 mmol, 1.25 mL | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
solvent | acetonitrile | 49 mL | C(C)#N | C2H3N
product | 3-Chloro-4-fluoro-N-pyrimidin-4-ylbenzenesulfonamide | 27% yield | ClC=1C=C(C=CC1F)S(=O)(=O)NC1=NC=NC=C1 | C10H7ClFN3O2S
